US04721726
A. N-(tert.-Butyloxycarbonyl)-β-alanine, pivaloyloxymethyl ester
Triethylamine (32.4 ml) was added to N-tert.-butyloxycarbonyl β-alanine (40 g) in N,N'-dimethylformamide at room temperature under a nitrogen atmosphere in a 1 l round bottom flask. The solution was stirred 15 minutes and chloromethyl pivalate (36.6 g) [M. Rasmussen & N. J. Leonard, J. Amer. Chem. Soc., 89, 5439 (1967)] was added dropwise at 0° C. The solution was stirred at room temperature overnight. The mixture was then diluted with ethyl acetate, filtered, washed with water, then brine, and evaporated to give 70 g crude material which was chromatographed (silica gel) eluting with 15% ethyl acetate-hexane to give 62.5 g of product.

reactant | Triethylamine | 32.4 ml | C(C)N(CC)CC | C6H15N
reactant | N-tert.-butyloxycarbonyl β-alanine | 40 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | chloromethyl pivalate | 36.6 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N'-dimethylformamide | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(tert.-Butyloxycarbonyl)-β-alanine, pivaloyloxymethyl ester | 62.5 g | C(C)(C)(C)OC(=O)NCCC(=O)OCOC(C(C)(C)C)=O | C14H25NO6
